US09315502B2
Intermediate G: 6-Bromo-3-phenyl-imidazo [1,2-a]pyridine
The title compound, off-white solid (0.4 g, 68%), MS (ISP) m/z=273.4 [(M+H)+], mp 77° C., was prepared in accordance with the general method of intermediate E from commercially available 6-bromo-3-iodoimidazo[1,2-a]pyridine (0.7 g, 2.17 mmol) and commercially available phenylboronic acid (0.29 g, 2.38 mmol).

reactant | 6-bromo-3-iodoimidazo[1,2-a]pyridine | 2.17 mmol, 0.7 g | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
reactant | phenylboronic acid | 2.38 mmol, 0.29 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 6-Bromo-3-phenyl-imidazo [1,2-a]pyridine | BrC=1C=CC=2N(C1)C(=CN2)C2=CC=CC=C2 | C13H9BrN2
